US08357711B2
6-[(6-Methylpyridin-2-yl)methyl]-1,4-oxazepane dihydrochloride
tert-Butyl 6-[(6-methylpyridin-2-yl)methyl]-1,4-oxazepane-4-carboxylate (Preparation 83, 42.5 g, 0.14 mol, 1 eq) was dissolved in isopropanol (250 mL), concentrated hydrogen chloride (38 mL, 0.42 mol, 3 eq) was added under stirring, and the mixture was refluxed for 2 h. The reaction mixture was then evaporated, and the residue was coevaporated twice with isopropanol. The product was crystallized from isopropanol, and the crystals were washed with diethylether/isopropanol (3:1) mixture and ether and finally vacuum-dried to give title compound as white crystals (32.3 g, 0.12 mol, 82%).

reactant | tert-Butyl 6-[(6-methylpyridin-2-yl)methyl]-1,4-oxazepane-4-carboxylate | 0.14 mol, 42.5 g, 1 eq | CC1=CC=CC(=N1)CC1CN(CCOC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | hydrogen chloride | 0.42 mol, 38 mL, 3 eq | Cl | ClH
solvent | isopropanol | 250 mL | C(C)(C)O | C3H8O
product | 6-[(6-Methylpyridin-2-yl)methyl]-1,4-oxazepane dihydrochloride | 0.12 mol, 32.3 g, 82% | Cl.Cl.CC1=CC=CC(=N1)CC1CNCCOC1 | InChI=1S/C12H18N2O.2ClH/c1-10-3-2-4-12(14-10)7-11-8-13-5-6-15-9-11;;/h2-4,11,13H,5-9H2,1H3;2*1H
